US07838498B2
Preparation of (4-(2-bromo-5-chloro-4-(4-ethylbenzyl)benzyloxy)but-1-ynyl)trimethylsilane (Intermediate BU)
To a cooled solution (−78° C.) of 1-bromo-2-((but-3-ynyloxy)methyl)-4-chloro-5-(4-ethylbenzyl)benzene (BT) (96 mg, 0.245 mmol) was added LDA (2M in THF, 0.18 mL, 0.36 mmol). After stirring for 20 min, TMS-Cl (50 μL, 0.393 mmol) was added. After stirring for another 2.5 h, additional TMS-Cl (30 μL, 0.236 mmol) was added. The reaction solution was stirred at −78° C. for 70 min and then warmed to room temperature with stirring for 1.5 h. Water was added and the mixture was extracted with ethyl acetate and the extracts were washed with brine, and dried over Na2SO4. The solution was concentrated and the resulting residue was purified by preparative TLC to afford 72 mg of title product.

reactant | 1-bromo-2-((but-3-ynyloxy)methyl)-4-chloro-5-(4-ethylbenzyl)benzene | 0.245 mmol, 96 mg | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)COCCC#C | C20H20BrClO
reactant | LDA | 0.36 mmol, 2M, 0.18 mL | [Li+].CC(C)[N-]C(C)C
reactant | TMS-Cl | 0.393 mmol, 50 μL | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | TMS-Cl | 0.236 mmol, 30 μL | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | Water | O | H2O
product | (4-(2-bromo-5-chloro-4-(4-ethylbenzyl)benzyloxy)but-1-ynyl)trimethylsilane | 72 mg | BrC1=C(COCCC#C[Si](C)(C)C)C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl | C23H28BrClOSi
